US07919519B2
Iodine (2.38 mL, 46.3 mmol) was added to a solution of 2-chloro-3-pyridinol (5.00 g, 38.6 mmol) in water (60 mL) containing potassium carbonate (18.7 g, 135 mmol). The resulting solution was allowed to stir for 2 h at room temperature. The mixture was treated with sodium thiosulfate, acidified to pH 2 using 12M aqueous HCl, and extracted with EtOAc. The organic phase was dried over MgSO4 and evaporated. Purification by flash chromatography using EtOAc/hexanes gave 2-chloro-6-iodopyridin-3-ol. 1H NMR (300 MHz, CDCl3) δ ppm 7.56 (d, J=8.2 Hz, 1H), 7.02 (d, J=8.3 Hz, 1H). MS (ESI) m/z: Calculated; 254.9 Observed: 255.8 (M++1).

reactant | Iodine | 46.3 mmol, 2.38 mL | II | I2
reactant | 2-chloro-3-pyridinol | 38.6 mmol, 5.00 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | potassium carbonate | 135 mmol, 18.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 12M | Cl | ClH
solvent | water | 60 mL | O | H2O
product | 2-chloro-6-iodopyridin-3-ol | ClC1=NC(=CC=C1O)I | C5H3ClINO
